US03969383
3,5-di-t-butyl-4-hydroxyphenyl docosanate
The procedure of Example 1 is repeated except that 2,6-di-t-butylhydroquinone and docosanoyl chloride were employed to yield the above named product. It has a melting point of 59°-61°C.

reactant | 2,6-di-t-butylhydroquinone | C(C)(C)(C)C1=C(O)C(=CC(=C1)O)C(C)(C)C | C14H22O2
reactant | docosanoyl chloride | C(CCCCCCCCCCCCCCCCCCCCC)(=O)Cl | C22H43ClO
product | 3,5-di-t-butyl-4-hydroxyphenyl docosanate | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C36H64O3
